US06953787B2
N-Trifluoroacetyl-2-iodo-4-chlorophenethylamine
A solution of N-trifluoroacetyl-4-chlorophenethylamine (1.6 g, 6.4 mmol) in dichloromethane (20 mL) was treated with bis(pyridine)iodonium(I)tetrafluoroborate (2.6 g, 7.0 mmol), CF3SO3H (2.1 g, 14.1 mmol) and stirred overnight at 20 C. The product mixture was concentrated, dissolved in EtOAc (100 mL), washed twice with 5% aqueous sodium bisulfite (50 mL), twice with saturated aqueous NaHCO3, (50 mL) once with brine (50 mL), dried with Na2SO4 and concentrated to give 0.94 g of a clear oil. MS calculated for C10H8ClF3INO+H: 378, observed: 378.

reactant | N-trifluoroacetyl-4-chlorophenethylamine | 6.4 mmol, 1.6 g | FC(C(=O)NCCC1=CC=C(C=C1)Cl)(F)F | C10H9ClF3NO
reactant | bis(pyridine)iodonium(I)tetrafluoroborate | 7.0 mmol, 2.6 g | [B-](F)(F)(F)F.C1=CC=NC=C1.C1=CC=NC=C1.[IH2+]
reactant | CF3SO3H | 14.1 mmol, 2.1 g | C(F)(F)(F)S(=O)(=O)O | CHF3O3S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-Trifluoroacetyl-2-iodo-4-chlorophenethylamine | 0.94 g | FC(C(=O)NCCC1=C(C=C(C=C1)Cl)I)(F)F | C10H8ClF3INO
